US04882085
47.0 g of ethyl L-(+)-lactate and 88.4 g of 1-iodododecane were added into a flask and mixed under nitrogen gas stream. 42.1 g of freshly synthesized Ag2O was added in 3 hours. After the mixture was left standing at room temperature for 50 hours, it was heated on a water bath at 60°-70° C. for 4 hours. The mixture was diluted with 200 ml of ether, subjected to filtration and then ether was evaporated. The residue was washed with 100 ml of aqueous 5% KOH, then dried over anhydrous Na2SO4 and subjected to vacuum distillation. The fractions of 169° C./9 mmHg were collected to obtain 22 g of (-)-ethyl-2-dodecyloxypropionate. Optical rotation [α]D23° =-42°.

reactant | ethyl L-(+)-lactate | 47.0 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | 1-iodododecane | 88.4 g | ICCCCCCCCCCCC | C12H25I
solvent | ether | 200 ml | CCOCC | C4H10O
product | (-)-ethyl-2-dodecyloxypropionate | 22 g | C(C)OC(C(C)OCCCCCCCCCCCC)=O | C17H34O3
